US05036075
The experiment is carried out as in Example 1, starting with 2-(4-chlorobutyl)naphtho[1,8-cd]isothiazole 1,1-dioxide (10 g), triethylamine (4.8 cc) and 4-phenyl-1,2,3,6-tetrahydropyridine (5.4 g) in toluene (300 cc). The mixture is heated for 9 hours at boiling point, then cooled to a temperature of about 20° C. After purification by flash-chromatography on silica column, under a current of argon at medium pressure (0.5-1.5 bar) with ethyl acetate as eluant, and recrystalline from boiling acetonitrile (10 cc), 2-[4-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)butyl]naphtho[1,8-cd]isothiazole 1,1-dioxide (2.6 g) is obtained, m.p. 101° C.

reactant | 2-(4-chlorobutyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | 10 g | ClCCCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C14H14ClNO2S
reactant | triethylamine | 4.8 cc | C(C)N(CC)CC | C6H15N
reactant | 4-phenyl-1,2,3,6-tetrahydropyridine | 5.4 g | C1(=CC=CC=C1)C=1CCNCC1 | C11H13N
solvent | toluene | 300 cc | C1(=CC=CC=C1)C | C7H8
product | 2-[4-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)butyl]naphtho[1,8-cd]isothiazole 1,1-dioxide | 2.6 g | C1(=CC=CC=C1)C=1CCN(CC1)CCCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C25H26N2O2S
